US05104878
Chlorine gas was passed through a solution of 2-nitro-4-trifluoromethoxy-aniline (14.5 g) in carbon tetrachloride (175 ml). As the mixture was stirred it became solid and more carbon tetrachloride (50 ml) was added. Chlorine gas was passed through the reaction mixture until thin layer chromatography (silica gel, using petroleum ether (boiling range 60°-80° C.) containing ethyl acetate (30% by volume) as eluent) demonstrated the absence of starting material. Evaporation of the solvent under reduced pressure gave a dark orange solid, which on trituration with petroleum ether (boiling range 60°-80° C.) gave a 2-chloro-4-trifluoromethoxy-6-nitro-aniline as an orange solid.

reactant | Chlorine | ClCl | Cl2
reactant | 2-nitro-4-trifluoromethoxy-aniline | 14.5 g | [N+](=O)([O-])C1=C(N)C=CC(=C1)OC(F)(F)F | C7H5F3N2O3
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | carbon tetrachloride | 175 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-chloro-4-trifluoromethoxy-6-nitro-aniline | ClC1=C(N)C(=CC(=C1)OC(F)(F)F)[N+](=O)[O-] | C7H4ClF3N2O3
